US05441953
To a solution of 0.5 g (1.5 mmol) of methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate in 5 ml of dichloromethane was added 0.5 ml (3.5 mmol) of trifluoroacetic anhydride. After 1 hour the reaction was partitioned between water and dichloromethane. The organic layer was washed twice with water, dried over magnesium sulfate, and concentrated to a solid. Recrystallization of this solid from hexane-ethyl acetate gave 0.520 g of methyl (E)-6-[1,3-dihydro-4-(trifluoroacetyl)amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate as a white solid, mp 107°-109° C.

reactant | methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 1.5 mmol, 0.5 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H23NO5
reactant | trifluoroacetic anhydride | 3.5 mmol, 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methyl (E)-6-[1,3-dihydro-4-(trifluoroacetyl)amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate | 0.520 g | FC(C(=O)NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O)(F)F | C20H22F3NO6
